US07858623B2
Step 1: Ethyl 7-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylate.
A mixture of diethyl 2-(ethoxymethylene)malonate (0.60 g, 3 mmol), 5-methylpyridin-2-amine (0.20 g, 2 mmol), DBU (0.1 ml, 0.9 mmol) in acetonitrile (2 g, 49 mmol) was heated under Microwave (CEM) at 150° C. (150 W) for 20 min. The resultant was diluted with dichloromethane and water, and the organic layer was dried over sodium sulfate. The organic solution was concentrated, and the residue was crystallized in dichloromethane and diethyl ether to give the title compound as a pale yellow solid (0.25 g, 58%): MS (ESI pos. ion) m/z: 233 (MH+). Calc'd exact mass for C12H12N2O3: 232.

reactant | diethyl 2-(ethoxymethylene)malonate | 3 mmol, 0.60 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | 5-methylpyridin-2-amine | 2 mmol, 0.20 g | CC=1C=CC(=NC1)N | C6H8N2
reactant | DBU | 0.9 mmol, 0.1 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | acetonitrile | 49 mmol, 2 g | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | Ethyl 7-methyl-4-oxo-4H-pyrido[1,2-a]pyrimidine-3-carboxylate | 0.25 g, 58% | CC=1C=CC=2N(C(C(=CN2)C(=O)OCC)=O)C1 | C12H12N2O3
